US05198449
N,α-bis(4-Fluorophenyl)-1-(3-phenoxypropyl)-4-piperidinemethanamine dihydrochloride hemihydrate
A mixture of 3.92 g (10.5 mmol) of N,α-bis(4-fluorophenyl)-4-piperidinemethanamine hydrochloride hydrate, 2.77 g (13.0 mmol) of 3-phenoxy propyl bromide, 3.80 g (36.0 mmol) of sodium carbonate, and 0.61 g (3.7 mmol) of KI in 400 mL of 1-butanol was heated at reflux for 69 h. The solvent was removed in vacuo, and the residue was partitioned between CH2Cl2 and dilute NaOH. The CH2Cl2 solution was dried (Na2SO4), and the solvent was removed in vacuo. The residue was subjected to flash column chromatography (silica gel, elution with 1 to 3% CH3OH in CH2Cl2) to give the free base of the title compound. This was converted to the HCl salt, and the salt was recrystallized from CH3OH/ether to give 3.59 g (65.9%) of the title compound as a white crystalline solid, mp 222°-226° C.

reactant | N,α-bis(4-fluorophenyl)-4-piperidinemethanamine hydrochloride hydrate | 10.5 mmol, 3.92 g | O.Cl.FC1=CC=C(C=C1)NC(C1CCNCC1)C1=CC=C(C=C1)F
reactant | 3-phenoxy propyl bromide | 13.0 mmol, 2.77 g | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | sodium carbonate | 36.0 mmol, 3.80 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-butanol | 400 mL | C(CCC)O | C4H10O
product | N,α-bis(4-Fluorophenyl)-1-(3-phenoxypropyl)-4-piperidinemethanamine dihydrochloride hemihydrate | O.Cl.Cl.FC1=CC=C(C=C1)NC(C1CCN(CC1)CCCOC1=CC=CC=C1)C1=CC=C(C=C1)F.FC1=CC=C(C=C1)NC(C1CCN(CC1)CCCOC1=CC=CC=C1)C1=CC=C(C=C1)F.Cl.Cl | InChI=1S/2C27H30F2N2O.4ClH.H2O/c2*28-23-9-7-21(8-10-23)27(30-25-13-11-24(29)12-14-25)22-15-18-31(19-16-22)17-4-20-32-26-5-2-1-3-6-26;;;;;/h2*1-3,5-14,22,27,30H,4,15-20H2;4*1H;1H2
